US08604050B2
25.1 Ethyl 2-azido-3-(4-trimethylsilylphenyl)propenoate
1.26 g (54.96 mmol) of sodium and 30 mL of anhydrous ethanol are introduced into a 100 mL round-bottomed flask, equipped with a magnetic stirrer and maintained under a nitrogen atmosphere. The reaction mixture is stirred at room temperature until a homogeneous solution is obtained. To this solution, cooled to −10° C., is added dropwise a solution containing 16.83 mL (54.96 mmol) of ethyl azidoacetate (34% in CH2Cl2) and 5 g (27.48 mmol) of 4-trimethylsilylbenzaldehyde in 5 mL of ethanol. The reaction mixture is then stirred at 0° C. for 4 hours. The reaction medium is hydrolysed by adding, with vigorous stirring, 100 mL of ammonium chloride solution (30% aqueous). The product is extracted with three times 50 mL of ethyl acetate. The combined organic phases are washed with twice 20 mL of water, dried over sodium sulfate and concentrated under reduced pressure. The resulting oil is purified by chromatography on a column of silica gel, eluting with a mixture of heptane and dichloromethane. 4.96 g of the expected product are isolated in the form of a yellow oil.

reactant | sodium | 54.96 mmol, 1.26 g | [Na] | Na
reactant | ethyl azidoacetate | 54.96 mmol, 16.83 mL | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
reactant | 4-trimethylsilylbenzaldehyde | 27.48 mmol, 5 g | C[Si](C1=CC=C(C=O)C=C1)(C)C | C10H14OSi
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | Ethyl 2-azido-3-(4-trimethylsilylphenyl)propenoate | 4.96 g | N(=[N+]=[N-])C(C(=O)OCC)=CC1=CC=C(C=C1)[Si](C)(C)C | C14H19N3O2Si
